US06537948B1
1.38 g of boron trifluoride diethyl ether complex was added to a mixture of 2.55 g of 3-amino-6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-benzyloxypyridine, 6 ml of 1,2-dimethoxyethane and 2 ml of dichloromethane dropwise at −5° C. The mixture was stirred for 15 minutes at the same temperature, then, to the reaction solution was added 0.59 g of t-butyl nitrite dropwise at −5° C. The mixture was stirred for 1 hour at the same temperature, then, into the mixture was poured n-pentane. The solvent was removed by decantation. 15 ml of ethanol, and 2.3 g of zinc (dust) was added to the residue, and it was stirred at reflux temperature for 1.5 hour. The reaction solution was filtrated through Celite, and the solvent was distilled off, then, the resulted residue was subjected to silica gel chromatography to obtain 0.75 g of 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-6-benzyloxypyridine.

reactant | 3-amino-6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-benzyloxypyridine | 2.55 g | NC=1C(=NC(=CC1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)OCC1=CC=CC=C1 | C24H17ClF4N4O4
reactant | 1,2-dimethoxyethane | 6 ml | COCCOC | C4H10O2
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | t-butyl nitrite | 0.59 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | n-pentane | CCCCC | C5H12
product | 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-6-benzyloxypyridine | 0.75 g | ClC1=C(OC2=NC(=CC=C2)OCC2=CC=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C24H16ClF4N3O4
